US07687491B2
(3d) Ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using (4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol (0.10 g, 0.25 mmol) that was obtained in Example 3 (3c), carbon tetrabromide (0.17 g, 0.50 mmol), triphenylphosphine (0.13 g, 0.50 mmol), ethyl 3-azetidinecarboxylate hydrochloride (62 mg, 0.38 mmol), and N,N-diisopropylethylamine (0.11 ml, 0.63 mmol). Subsequently, the crude product of the title compound thus obtained was purified by thin layer chromatography on a silica gel plate using a mixed solvent of ethyl acetate and hexane (2:3) as the developing solvent to afford the title compound (73 mg) in a yield of 56% as a white crystalline solid.

reactant | (4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol | 0.25 mmol, 0.10 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(SC1)CO | C18H11F3N2O2S2
reactant | carbon tetrabromide | 0.50 mmol, 0.17 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.50 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.38 mmol, 62 mg | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 0.63 mmol, 0.11 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)OCC | C24H20F3N3O3S2
